data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-C(F)(F)F_2-C1CC1_3-C1CCC1_4-C1CCCCC1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(C(F)(F)F)(C1CC1)(O)C(O)(C1CCC1)(C1CCCCC1)"],"products_smiles": ["C(=O)(C(F)(F)F)C(C1CC1)(C1CCC1)(C1CCCCC1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(C1CC1)(O)C([OH2+])(C1CCC1)(C1CCCCC1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(C(F)(F)F)(C1CC1)(O)[C+](C1CCC1)(C1CCCCC1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(C(F)(F)F)C(C1CC1)(C1CCC1)(C1CCCCC1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-044_1-C_2-c1cnccc1_3-CCCC_4-CC_5-c1ccccc1C_6-CCCC","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](C)(c1cnccc1)C(CCCC)(CC)[N+](c1ccccc1C)(CCCC)[O-]"],"products_smiles": ["C(C)(c1cnccc1)=C(CCCC)(CC)","O[N](c1ccccc1C)(CCCC)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(c1cnccc1)=C(CCCC)(CC).O[N](c1ccccc1C)(CCCC)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
{"reaction_id": "NR-139_1-C1CCCCC1_2-CC_3-C1(CCCCC1)C_4-c1cnccc1","name": "Markó-Lam Deoxygenation","level": "medium","reactants_smiles": ["C(OC(=O)c1cnccc1)(C1CCCCC1)(CC)(C1(CCCCC1)C)"],"products_smiles": ["C(C1CCCCC1)(CC)(C1(CCCCC1)C)"],"conditions": "SmI2, HMPA","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "C(O[C]([O][Sm](I)I)c1cnccc1)(C1CCCCC1)(CC)(C1(CCCCC1)C)","rationale": "SmI2 is a strong single-electron donor; coordination to the carbonyl oxygen and electron transfer generate a radical anion stabilized by resonance with the carbonyl group."},{"step": 2,"type": "elimination","subtype": "radical_elimination","intermediate_smiles": "[C](C1CCCCC1)(CC)(C1(CCCCC1)C)","rationale": "The radical anion undergoes C–O bond cleavage because the alkoxy leaving group is stabilized by Sm(III) coordination, favoring radical elimination."},{"step": 3,"type": "substitution","subtype": "radical_substitution","intermediate_smiles": "C(C1CCCCC1)(CC)(C1(CCCCC1)C)","rationale": "The carbon-centered radical abstracts a hydrogen atom from the solvent or SmI2–HMPA complex, driven by formation of a strong C–H bond and radical quenching."}],"description": "SmI2 mediates a single-electron reduction of the ester, generating a radical anion that fragments to release the alkoxy radical. Subsequent elimination yields a carbon-centered radical, which abstracts hydrogen to give the fully deoxygenated product under mild, reductive conditions."}
